.GLOBAL vdd! gnd!

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Name: SimpleTwoStageOpAmp_SimpleOpAmp8_7

m1 ibias ibias gnd! gnd! nmos
m2 FirstStageYout1 FirstStageYout1 vdd! vdd! pmos
m3 out ibias gnd! gnd! nmos
m4 outFirstStage inp FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos
m5 FirstStageYout1 inn FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos
m6 FirstStageYsourceTransconductance ibias gnd! gnd! nmos
m7 out outFirstStage vdd! vdd! pmos
m8 outFirstStage FirstStageYout1 vdd! vdd! pmos
cl out gnd!
cc outFirstStage out
.END
